US07157447B2
2-((1,3-Dioxoisoindolin-2-yl)methyl)-5-fluorobenzonitrile.
To a stirred solution of intermediate 104, 2-(bromomethyl)-5-fluorobenzonitrile (29.72 g, 139 mmol) and phthalimide (32.69 g, 222 mmol) in dimethylformamide (300 mL) was added Cs2CO3 (67.87 g, 208 mmol). After stirring vigorously for 1 h, the reaction mixture was poured into water (1.2 L). The precipitated product was filtered, washed with water (600 mL) and methanol (150 mL) to give a white solid. The solid was taken up into 1 L of water/methanol (2:1) to which was added K2CO3 (12 g) and the mixture stirred at 40° C. After 30 min., the mixture was cooled and filtered. The filter cake was washed with water (500 mL), and dried under vacuum to afford the title compound (38.91 g, 94% yield) as a white powder. 1H NMR (500 MHz, CDCl3) δ: 7.89 (2H, dd, J=5.5, 3.1 Hz), 7.76 (5.5, 3.1 Hz), 7.41 (1H, dd, J=8.6, 5.2 Hz), 7.38 (1H, dd, J=7.9, 2.8 Hz), 7.24 (1H, td, J=8.2, 2.8 Hz), 5.06 (2H, s). LCMS (M+H) calcd for C16H10FN2O2: 281.07. found: 281.15.

reactant | 2-(bromomethyl)-5-fluorobenzonitrile | 139 mmol, 29.72 g | BrCC1=C(C#N)C=C(C=C1)F | C8H5BrFN
reactant | phthalimide | 222 mmol, 32.69 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | Cs2CO3 | 208 mmol, 67.87 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | K2CO3 | 12 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | water methanol | 1 L | O.CO
solvent | water | 1.2 L | O | H2O
product | 2-((1,3-Dioxoisoindolin-2-yl)methyl)-5-fluorobenzonitrile | 38.91 g, 94% yield | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(C#N)C=C(C=C1)F | C16H9FN2O2
